US07288544B2
3) Synthesis of 4-(2,4-dimethylphenyl)-2,6-dimethyl-5-(piperazine-1-carbonyl) nicotinic acid (3,3-diphenylpropyl) ester:
274 mg (0.413 mmol) of 4-[4-(2,4-dimethylphenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester was dissolved in 10 ml of dichloromethane. 5 ml of trifluoroacetate was added and stirred at room temperature for 2 hours. After concentration under reduced pressure, saturated aqueous sodium hydrogencarbonate solution was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=100/1 to 10/1) to obtain the title compound.

reactant | 4-[4-(2,4-dimethylphenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester | 0.413 mmol, 274 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=C(C=C(C=C1)C)C)C(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C41H49N3O5
reactant | trifluoroacetate | 5 ml | FC(C(=O)[O-])(F)F
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(2,4-dimethylphenyl)-2,6-dimethyl-5-(piperazine-1-carbonyl) nicotinic acid (3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(C1=C(N=C(C(=C1C1=C(C=C(C=C1)C)C)C(=O)N1CCNCC1)C)C)=O)C1=CC=CC=C1 | C36H39N3O3
